US04558134
6-(3,4-Dichlorophenoxy)-3-propylthio-2-pyridinecarbonitrile
6-Chloro-3-propylthio-2-pyridinecarbonitrile (12.8 g) was mixed with 10.6 g of 3,4-dichlorophenol in the presence of 7.3 g of t-BuOK in DMSO (10 ml) and THF (100 ml). The desired, 6-(3,4-dichlorophenoxy)-3-propylthio-2-pyridinecarbonitrile was recovered, m.p. 67°-69° C.

reactant | 6-Chloro-3-propylthio-2-pyridinecarbonitrile | 12.8 g | ClC1=CC=C(C(=N1)C#N)SCCC | C9H9ClN2S
reactant | 3,4-dichlorophenol | 10.6 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | t-BuOK | 7.3 g | CC(C)(C)[O-].[K+]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 6-(3,4-Dichlorophenoxy)-3-propylthio-2-pyridinecarbonitrile | ClC=1C=C(OC2=CC=C(C(=N2)C#N)SCCC)C=CC1Cl | C15H12Cl2N2OS
